US05252575
N-[3-(Methoxymethoxy)propoxy]phthalimide
A solution of 3-(methoxymethoxy)propanol (5 g, 41.6 mmol), triphenylphosphine (13.1 g, 50 mmol) and N-hydroxyphthalimide (7.25 g, 44 mmol) in dry tetrahydrofuran (150 ml) was cooled to 0°-5° C. and treated with diethyl azodicarboxylate (8.7 g, 50 mmol) in dry tetrahydrofuran (10 ml) over 1/2 hr. The reaction was then stirred at ambient temperature for 18 hr. The solvent was removed in vacuo and the residue was dissolved in diethyl ether (100 ml) and the mixture cooled to 0°-5° C. for 3 hr. The solid was removed by filtration and the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica eluting with hexane:ethyl acetate (70:30) to give the title compound as an oil (4.5 g, 41%). νmax (Film) 2960, 2900, 1800, 1740, 1620, 1480 and 1380 cm-1 ; δH (CDCl3) 2.07 (2H, quintet, J=6.3 Hz, CH2CH2CH2), 3.38 (3H, s, OCH3), 3.77 (2H, t, J=6.3 Hz, CH2OCH2OCH3), 4.33 (2H, t, J=6.3 Hz, CH2ON), 4.66 (2H, s, OCH2O), 7.83 (4H, m, ArH).

reactant | 3-(methoxymethoxy)propanol | 41.6 mmol, 5 g | COCOCCCO | C5H12O3
reactant | triphenylphosphine | 50 mmol, 13.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 44 mmol, 7.25 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | diethyl azodicarboxylate | 50 mmol, 8.7 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[3-(Methoxymethoxy)propoxy]phthalimide | 4.5 g, 41% | COCOCCCON1C(C=2C(C1=O)=CC=CC2)=O | C13H15NO5
